US07598289B2
1-(9H-Fluoren-2-yl)-hex-5-en-1-ol (ABD-213)
2-Fluorenecarboxaldehyde (3 g) was dissolved in a mixture of anhydrous diethyl ether (30 ml) and anhydrous diglyme (5 ml) and was reacted with a grignard prepared from 5-bromopentene and magnesium, as described for example 23. The mixture was stirred for 30 min and a precipitate filtered off and washed with diethyl ether to give a white powder. The powder was dissolved in DCM and washed with saturated NH4Cl and water. Evaporation gave an oil which rapidly solidified. Column chromatography gave the title compound as a white solid. δC (CDCl3, 62.9 MHz): 25.2, 33.7, 36.9, 38.7, 74.8, 114.8, 119.8, 119.9, 122.6, 124.7, 125.1, 126.7, 126.8, 138.7, 141.2, 141.5, 143.4, 143.6 and 143.6.

reactant | 2-Fluorenecarboxaldehyde | 3 g | C1=C(C=CC=2C3=CC=CC=C3CC12)C=O | C14H10O
reactant | 5-bromopentene | BrCCCC=C | C5H9Br
reactant | magnesium | [Mg] | Mg
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diglyme | 5 ml | COCCOCCOC | C6H14O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(9H-Fluoren-2-yl)-hex-5-en-1-ol | C1=C(C=CC=2C3=CC=CC=C3CC12)C(CCCC=C)O | C19H20O
